US08283354B2
A 2.0 M HCl solution in Et2O (192 μL, 0.38 mmol) was slowly added at −20° C. to a stirring solution of (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate (167 mg, 0.38 mmol) in 700 μL of CH2Cl2. The reaction was allowed to warm to room temperature and was stirred for 25 minutes. Solvents were removed under reduced pressure, and the residue was triturated with Et2O and filtered to give (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate hydrochloride. LC/MS: m/z 435.2 (M+H)+ at 2.41 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | HCl | 2.0 M | Cl | ClH
reactant | Et2O | 0.38 mmol, 192 μL | CCOCC | C4H10O
reactant | (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | 0.38 mmol, 167 mg | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O)C | C24H26N4O4
solvent | CH2Cl2 | 700 μL | C(Cl)Cl | CH2Cl2
product | (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate hydrochloride | Cl.OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O)C | InChI=1S/C24H26N4O4.ClH/c1-15-6-7-18-20(12-15)26-22(19-4-2-3-5-21(19)29)27-23(18)28-10-8-16(13-28)25-24(30)32-17-9-11-31-14-17;/h2-7,12,16-17,29H,8-11,13-14H2,1H3,(H,25,30);1H/t16-,17+;/m1./s1
